* C:\Users\jorge\Two-Stage-Op-Amp\Diff-Amp-with-Current-Mirror\Diff-Amp-with-Current-Mirror-Bias.asc
* Generated by LTspice 24.1.4 for Windows.
Q1 vc2 0 N001 0 MPQ3904
Q2 vc1 0 N001 0 MPQ3904
RC1 VCC vc1 4.7k
RC2 VCC vc2 4.7k
RE1 N001 VEE 4.7K
V1 VCC 0 6V
V2 0 VEE 6V
Q3 N002 N002 VEE 0 MPQ3904
Q4 VEE N002 VEE 0 MPQ3904
R1 VCC N002 11.3k
I1 vc2 vc1 AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\jorge\AppData\Local\LTspice\lib\cmp\standard.bjt
.MODEL MPQ3904 NPN (IS=7.92e-016 NF=1.00 BF=205 VAF=114
+ IKF=72.9m ISE=2.60p NE=2.00 BR=4.00 NR=1.00
+ VAR=24.0 IKR=0.180 RE=0.532 RB=2.13 RC=0.213
+ XTB=1.5 CJE=11.1p VJE=1.10 MJE=0.500 CJC=9.47p VJC=0.300
+ MJC=0.300 TF=584P TR=232n EG=1.12 )
* Jorge De Los Santos Razo\nPart III: Differential Amplifier w/ Current Mirror Bias
.ac dec 10 1 100k
.backanno
.end
