* C:\Users\jorge\Two-Stage-Op-Amp\Two-Stage-Op-Amp\Two-Stage-Op-Amp.asc
* Generated by LTspice 24.1.4 for Windows.
Q1 N003 0 N004 0 MPQ3904
Q2 N002 in N004 0 MPQ3904
RE1 N004 VEE 4.7K
Vin in 0 AC 0
V1 VCC 0 6V
V2 0 VEE 6V
Q3 N006 N006 VEE 0 MPQ3904
Q4 VEE N006 VEE 0 MPQ3904
R1 VCC N006 11.3k
Q5 N003 N002 VCC 0 MPQ2907
Q6 N002 N002 VCC 0 MPQ2907
Q7 VCC N001 Vout 0 MPQ3904
Q8 Vout N005 VEE 0 MPQ2907
Q9 N001 N001 N003 0 MPQ3904
Q10 N003 N003 N005 0 MPQ3904
V3 Vout 0 AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\jorge\AppData\Local\LTspice\lib\cmp\standard.bjt
.MODEL MPQ3904 NPN (IS=7.92e-016 NF=1.00 BF=205 VAF=114
+ IKF=72.9m ISE=2.60p NE=2.00 BR=4.00 NR=1.00
+ VAR=24.0 IKR=0.180 RE=0.532 RB=2.13 RC=0.213
+ XTB=1.5 CJE=11.1p VJE=1.10 MJE=0.500 CJC=9.47p VJC=0.300
+ MJC=0.300 TF=584P TR=232n EG=1.12 )
* Jorge De Los Santos Razo\nPart IV: Two-Stage Operational Amplifier
.ac dec 10 1 100k
.MODEL MPQ2907 PNP (IS=15.294E-15 BF=297.85 VAF=100 IKF=1.6607
+ ISE=29.577E-15 NE=1.5507 BR=476 VAR=100 IKR=2.2270 ISC=7.6418E-9
+ NC=2.1591 NK=.97918 RB=2.4875 RC=.69253 CJE=33.186E-12 VJE=.8716
+ MJE=.40799 CJC=15.649E-12 VJC=.56868 MJC=.3619 TF=456.18E-12
+ XTF=22.393 VTF=28.493 ITF=.62109 TR=10.000E-9)
.backanno
.end
